US06426337B1
2-Hydroxymethylbenzylamine
Lithium aluminium hydride (12.4 ml, 1.0M in diethyl ether) was added cautiously to 2-cyanomethylbenzoate (1.00 g, 6.2 mmol) in anhydrous diethyl ether (40 ml) under nitrogen with stirring over 10 min. whilst ensuring the temperature was not greater than 15-25 C. using an ice bath. After the addition was complete the reaction mixture was allowed to warm to 21 C. and then heated at reflux for 16 h. The reaction mixture was cooled to approximately −10 C. It was treated cautiously dropwise with water (0.5 ml), 20% aqueous sodium hydroxide (0.37 ml) and water (1.74 ml). The resultant green heterogeous mixture was filtered and the residue was with diethyl ether (150 ml), the combined washings and filtrate were dried (MgSO4) and solvent was removed in vacuo affording the title compound as a green oil (0.807 g). Mass Spectrum m/z 138 (MH+ for C8H12NO).

reactant | Lithium aluminium hydride | 1.0M, 12.4 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-cyanomethylbenzoate | 6.2 mmol, 1.00 g | C(#N)CC1=C(C(=O)[O-])C=CC=C1
reactant | water | 0.5 ml | O | H2O
reactant | sodium hydroxide | 0.37 ml | [OH-].[Na+]
reactant | water | 1.74 ml | O | H2O
reactant | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 2-Hydroxymethylbenzylamine | 0.807 g | OCC1=C(CN)C=CC=C1 | C8H11NO
